US06353008B1
Preparation of N-BOC-3-pyrrolodinol
3-pyrrolidinol (10 g, 0.12 mole) in 75 ml anhydrous methylene chloride and triethylamine (24.24 g, 0.24 mole) were combined under nitrogen. Cool with an ice bath & add dropwise diterbutyldicarbonate (31.39 g 0.144 mole) in 40 mL anhydrous methylene chloride keeping temperature below +15° C. Stir at room temperature over the weekend. Add ice and acidify with a saturated citric acid solution. Extraction with methylene chloride gave 22.69 g of crude product as an oil. Flash chromatography over silica gel with 20% to 75% ethyl acetate in hexane provided the purified title compound (17.7 g, 79%) as an oil. Mass Spec ESI+, M+1=188.4 (MW=187.237) 1H NMR (300 MHz CDCl3) δ 1.46 (9H, s); 1.56 (2H, s); 1.924 to 2.006 (2H, m); 3.367 to 3.505 (3H, m); 4.449 to 4.465 (1H, m).

reactant | 3-pyrrolidinol | 0.12 mole, 10 g | N1CC(CC1)O | C4H9NO
reactant | triethylamine | 0.24 mole, 24.24 g | C(C)N(CC)CC | C6H15N
reactant | diterbutyldicarbonate | 0.144 mole, 31.39 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-BOC-3-pyrrolodinol | C(=O)(OC(C)(C)C)N1CC(CC1)O | C9H17NO3
